US08865726B2
To a solution of (S)-2-(2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutyl)isoindoline-1,3-dione (3.8 g, 8.9 mmol) in methanol was added methylhydrazine (4.1 g, 89 mmol) and the reaction stirred overnight at ambient temperature. The reaction was concentrated and the residue was purified by chromatography, eluting with 10% MeOH/dichloromethane to 5% MeOH solution containing 7M ammonia/dichloromethane to yield (S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-3-methylbutane-1,2-diamine (2.2 g, 83%).

reactant | (S)-2-(2-(3-bromopyrazolo[1,5-a]pyrimidin-5-ylamino)-3-methylbutyl)isoindoline-1,3-dione | 8.9 mmol, 3.8 g | BrC=1C=NN2C1N=C(C=C2)N[C@H](CN2C(C1=CC=CC=C1C2=O)=O)C(C)C | C19H18BrN5O2
reactant | methylhydrazine | 89 mmol, 4.1 g | CNN | CH6N2
solvent | methanol | CO | CH4O
product | (S)—N2-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)-3-methylbutane-1,2-diamine | 2.2 g, 83% | BrC=1C=NN2C1N=C(C=C2)N[C@H](CN)C(C)C | C11H16BrN5
